US07595325B2
(4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(2-amino-6-methyl-pyridin-4-yl)-methanone
The title compound was prepared from 5-Bromo-4-chloro-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine (15.8 g, 50.7 mmol) and 2-Chloro-6-methyl-isonicotinoyl chloride (9.6 g, 50.7 mmol) by procedures analogous to those described for the preparation (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(6-amino-pyridin-2-yl)-methanone. MS: 311.2 (MH+); HPLC Rf: 3.23 min. (HPLC method 4); HPLC purity: 100%.

reactant | 5-Bromo-4-chloro-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine | 50.7 mmol, 15.8 g | BrC1=CN(C=2N=CN=C(C21)Cl)C(C)C | C9H9BrClN3
reactant | 2-Chloro-6-methyl-isonicotinoyl chloride | 50.7 mmol, 9.6 g | ClC=1C=C(C(=O)Cl)C=C(N1)C | C7H5Cl2NO
reactant | (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(6-amino-pyridin-2-yl)-methanone | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=NC(=CC=C2)N)C(C)C | C15H16N6O
product | (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(2-amino-6-methyl-pyridin-4-yl)-methanone | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=NC(=C2)C)N)C(C)C | C16H18N6O
